.lib /home/thanhhao/.ciel/ciel/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include Pre_charge.spice

x1    BLB BL GND VDD2 Pre_charge Pre_charge

VDD2 VDD2 0  0.9

Vin2 Pre_charge 0 DC 0 pulse(0  1.8  0n  100p  100p  10n   20n)

.ic v(BL)=0 v(BLB)=0

.tran 0.1n 200n
.save all
.control
run
plot v(pre_charge) v(BL)+2 v(BLB)+4 
.endc
.end

