name=s1 only_toplevel=false value=".lib /home/thanhhao/.ciel/ciel/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice tt


VDD1  VDD   0  1.8
VDD2  VDD2  0  0.9

BWL WL 0 V = ( (time > 15n && time < 20n) || (time > 30n && time < 40n) || (time > 55n && time < 60n) || (time > 70n && time < 80n) || (time > 95n && time < 100n) || (time > 110n && time < 120n) || (time > 135n && time < 140n) || (time > 150n && time < 160n)) ? 1.8 : 0

Vin2 pre_charge 0 DC 0 pulse(0   1.8   0n  100p  100p  10n     20n)
Vin3 sense 0 DC 0 pulse(0   1.8   10n  100p  100p  10n     20n)
Vin4 write 0 DC 0 pulse(0   1.8   10n  100p  100p  10n     40n)
Vin5 read 0 DC 0 pulse(0   1.8   30n  100p  100p  10n     40n)
Vin6 data_in 0 DC 0 pulse(0   1.8   0n  100p  100p  40n     80n)

.ic v(BL)=0 v(BLB)=0

.tran 0.1n 200n
.save all
.control
run
plot v(WL) v(pre_charge)+2 v(sense)+4 v(write)+6 v(read)+8 v(data_in)+10 v(data_out)+12 v(BL)+14 v(BLB)+16 v(Q)+18 v(QB)+20
.endc
.end

"
